US07981903B2
A solution of 2-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (425 mg, 1.62 mmol) in methanol (5 mL) was treated with morpholine (1.00 mL, 11.5 mmol, Aldrich) and heated at 65° C. in a sealed tube for 16 h. The mixture was cooled, concentrated, and partitioned between ethyl acetate and saturated aqueous ammonium chloride. The organic layer was separated, dried over magnesium sulfate, filtered, and purified by chromatography on SiO2 (dichloromethane to 25% methanol/dichloromethane) to give 6-(methyloxy)-2-[3-(4-morpholinyl)propanoyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline. This material was taken directly to the next step without a determination of yield. 1H NMR (400 MHz, DMSO-d6) is complicated by amide rotomers δ ppm 2.32-2.41 (m, 4 H), 2.52-2.62 (m, 4 H), 2.79-2.97 (two app triplets at 2.83 and 2.94, 2 H), 3.48-3.58 (m, 4 H), 3.63-3.72 (m, 2 H), 3.89 (s, 3 H), 4.55-4.69 (two singlets at 4.57 and 4.67, 2 H), 7.18-7.21 (m, 1 H), 7.80 (s, 1 H); ESIMS (M+H)+=350.

reactant | 2-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.62 mmol, 425 mg | C(C=C)(=O)N1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C13H14N2O4
reactant | morpholine | 11.5 mmol, 1.00 mL | N1CCOCC1 | C4H9NO
solvent | methanol | 5 mL | CO | CH4O
product | 6-(methyloxy)-2-[3-(4-morpholinyl)propanoyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(CC2=CC1[N+](=O)[O-])C(CCN1CCOCC1)=O | C17H23N3O5
